US09303012B2
c) [5-Cyclopropyl-6-(2,2,3,3,3-pentafluoro-propoxy)-pyridin-2-yl]-(2,2-dimethyl-pyrrolidin-1-yl)-methanone
The title compound was synthesized in analogy to Example 47 b, using 5-cyclopropyl-6-(2,2,3,3,3-pentafluoro-propoxy)-pyridine-2-carboxylic acid (40 mg, 129 μmol) and 2,2-dimethylpyrrolidine (CAN 35018-15-6; 18 μL, 141 μmol) as starting materials and isolated (41 mg, 81%) as light-brown oil; LC-MS (UV peak area, ESI) 100%, 393.1611 [MH+].

reactant | 5-cyclopropyl-6-(2,2,3,3,3-pentafluoro-propoxy)-pyridine-2-carboxylic acid | 129 μmol, 40 mg | C1(CC1)C=1C=CC(=NC1OCC(C(F)(F)F)(F)F)C(=O)O | C12H10F5NO3
reactant | 2,2-dimethylpyrrolidine | 141 μmol, 18 μL | CC1(NCCC1)C | C6H13N
product | [5-Cyclopropyl-6-(2,2,3,3,3-pentafluoro-propoxy)-pyridin-2-yl]-(2,2-dimethyl-pyrrolidin-1-yl)-methanone | C1(CC1)C=1C=CC(=NC1OCC(C(F)(F)F)(F)F)C(=O)N1C(CCC1)(C)C | C18H21F5N2O2
